US08124606B2
4-(4-(tert-butoxycarbonyl)piperazin-1-yl)-3-methylbenzoic acid (0.866 g, 2.70 mmol), ethanamine hydrochloride (0.264 g, 3.24 mmol), N1-((ethylimino)methylene)-N3,N3-dimethylpropane-1,3-diamine hydrochloride (0.777 g, 4.05 mmol) and 1H-benzo[d][1,2,3]triazol-1-ol hydrate (0.621 g, 4.05 mmol) were suspended in DMF (Volume: 3.68 ml) and 4-methylmorpholine (1.486 ml, 13.52 mmol) was added. The reaction mixture was stirred at ambient temperature for 2 h. It was diluted with water (50 mL) and extracted with ethyl acetate (3×75 mL). The combined organic extracts were washed with 1N HCl (aq., 25 mL), NaHCO3 (sat. aq., 25 mL), water (25 mL), brine (25 mL), dried (MgSO4), concentrated in vacuo and dried under vacuum to afford tert-butyl 4-(4-(ethylcarbamoyl)-2-methylphenyl)piperazine-1-carboxylate (0.9327 g, 2.68 mmol, 99% yield) as a white solid. 1H NMR (DMSO-d6, 400 MHz): δ=8.24 (t, J=5.4 Hz, 1H), 7.66 (d, J=1.8 Hz, 2H), 7.03 (d, J=8.3 Hz, 1H), 3.42-3.52 (m, 4H), 3.20-3.27 (m, 2H), 2.78-2.87 (m, 4H), 2.28 (s, 3H), 1.43 (s, 9H), 1.10 ppm (t, J=7.2 Hz, 3H). ESI-MS: m/z 348.4 (M+H)+.

reactant | 4-(4-(tert-butoxycarbonyl)piperazin-1-yl)-3-methylbenzoic acid | 2.70 mmol, 0.866 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C(=O)O)C=C1)C | C17H24N2O4
reactant | ethanamine hydrochloride | 3.24 mmol, 0.264 g | Cl.C(C)N
reactant | N1-((ethylimino)methylene)-N3,N3-dimethylpropane-1,3-diamine hydrochloride | 4.05 mmol, 0.777 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1H-benzo[d][1,2,3]triazol-1-ol hydrate | 4.05 mmol, 0.621 g | O.N1(N=NC2=C1C=CC=C2)O
reactant | 4-methylmorpholine | 13.52 mmol, 1.486 ml | CN1CCOCC1 | C5H11NO
solvent | DMF | 3.68 ml | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | tert-butyl 4-(4-(ethylcarbamoyl)-2-methylphenyl)piperazine-1-carboxylate | 2.68 mmol, 0.9327 g, 99% yield | C(C)NC(=O)C1=CC(=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)C | C19H29N3O3
